US04800203
5-Methylpyrrolo[1,2-b]cinnolin-10(5H)-one
A solution containing [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]methylcarbamic acid, ethyl ester (23.5 g, prepared from [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]carbamic acid, ethyl ester and methyl iodide in substantially the same manner as in Example 4) and sodium hydroxide (12.0 g) in 140 mL of 50% aqueous ethanol was refluxed under N2 for 16 h. Evaporation of the volatiles left a bright yellow solid which was diluted with 300 ml of H2O and extracted with two 200 mL portions of dichloromethane. The organic extracts were dried (MgSO4), filtered and concentrated. The residue was recrystallized from dichloromethane to give 8.0 g of bright yellow crystals, mp 154°-156° C.

reactant | [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]methylcarbamic acid, ethyl ester | FC1=C(C(=O)C=2N(C=CC2)CNC(OCC)=O)C=CC=C1 | C15H15FN2O3
reactant | [2-(2-fluorobenzoyl)-1H-pyrrol-1-yl]carbamic acid, ethyl ester | FC1=C(C(=O)C=2N(C=CC2)NC(OCC)=O)C=CC=C1 | C14H13FN2O3
reactant | methyl iodide | CI | CH3I
reactant | sodium hydroxide | 12.0 g | [OH-].[Na+]
solvent | ethanol | 140 mL | C(C)O | C2H6O
product | 5-Methylpyrrolo[1,2-b]cinnolin-10(5H)-one | 8.0 g | CN1N2C(C(C=3C=CC=CC13)=O)=CC=C2 | C12H10N2O
